US08912186B2
To a solution of 4-chlorophenol (0.774 g) and phenacyl bromide (1 g) in N,N-dimethyl formamide (10 ml) potassium carbonate (3.5 g) was added. The mixture was refluxed with stirring for 2 h. After cooling the reaction mixture was poured into water (50 ml) and extracted with dichloromethane (3×20 ml). The combined organic layers were washed with water (20 ml) and brine (20 ml), dried (MgSO4), and evaporated. The crude was purified by flash chromatography on silica gel (petrol ether/ethyl acetate 10:1) to give 2-(4-chlorophenoxy)-1-phenylethanone (1.22 g) as pale yellow solid.

reactant | 4-chlorophenol | 0.774 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | phenacyl bromide | 1 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethyl formamide | 10 ml, 3.5 g | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenoxy)-1-phenylethanone | 1.22 g | ClC1=CC=C(OCC(=O)C2=CC=CC=C2)C=C1 | C14H11ClO2
